US07129235B2
3′-chloro-3,6-dihydro-2H-1,2′-bipyridine-4-carboxylic acid
1,2,3,6-Tetrahydro-4-pyridinecarboxylic acid (7.0 g, 47 mmol) and 2-bromo-3-chloropyridine (11.0 g, 57 mmol) were combined in DMSO (100 mL) and treated with anhydrous K2CO3 (8.0 g, 58 mmol). The mixture was heated at 90° C. overnight, allowed to cool to room temperature, and then concentrated under reduced pressure. The residue in dichloromethane (200 mL) was cooled to −78° C. and treated with an excess of TFA (10 mL, 130 mmol) dropwise. The mixture was allowed to warm to room temperature and the layers were separated. The organic layer was washed with brine, dried over Na2SO4, filtered, and the filtrate concentrated under reduced pressure to provide the title compound which was used in the next step without further purification.

reactant | 1,2,3,6-Tetrahydro-4-pyridinecarboxylic acid | 47 mmol, 7.0 g | N1CCC(=CC1)C(=O)O | C6H9NO2
reactant | 2-bromo-3-chloropyridine | 57 mmol, 11.0 g | BrC1=NC=CC=C1Cl | C5H3BrClN
reactant | K2CO3 | 58 mmol, 8.0 g | C(=O)([O-])[O-].[K+].[K+]
reactant | TFA | 130 mmol, 10 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DMSO | 100 mL | CS(=O)C | C2H6OS
product | 3′-chloro-3,6-dihydro-2H-1,2′-bipyridine-4-carboxylic acid | ClC=1C(=NC=CC1)N1CCC(=CC1)C(=O)O | C11H11ClN2O2
